US07897597B2
A mixture of 1-[7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol (39.0 g, 0.133 mol), pyridine (390 mL), and acetic anhydride (195 mL) was heated at 35±5° C. for one hour in a reaction flask fitted with a calcium chloride drying tube. The reaction mixture was poured into a mixture of ice (2.5 kg) and deionized water and stirred for approximately 15 minutes. A precipitate formed and was isolated by filtration, washed with deionized water (500 mL), and dried under vacuum at 50° C. to provide 41.8 g of [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate.

reactant | 1-[7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 0.133 mol, 39.0 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CO | C22H23N3O3
reactant | pyridine | 390 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 195 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | [7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 41.8 g | C(C)(=O)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OCC2=CC=CC=C2)N1)CC(C)(C)O | C24H25N3O4
